US08026257B2
(±)-tert-Butyl 4-((1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of (±)-1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate (780 mg, 1.512 mmol) and tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (468 mg, 1.512 mmol) in dichloromethane (3 mL) at 0° C. was added cyclohexane (3 mL) and tetrafluoroboric acid diethyl etherate (0.041 mL, 0.302 mmol). After 15 min, the reaction was quenched by addition of triethylamine (ca. 0.05 mL). The reaction was diluted with diethyl ether, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→18% EtOAc/Hex) gave 543 mg (54%) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 7.87 (s, 1H), 7.71 (d, J=1.8, 1H), 7.21 (m, 2H), 7.18 (s, 1H), 6.97 (m, 2H), 5.58 (qAB, JAB, 11.6, 2H), 5.06 (q, J=6.1, 1H), 3.68 (m, 2H), 3.41 (m, 2H), 3.24 (qAB, JAB=8.9, 2H), 3.02 (m, 2H), 2.12 (m, 1H), 2.04 (m, 1H), 1.83 (m, 2H), 1.42 (s, 12H), 0.80 (m, 1H), 0.71 (m, 1H), −0.11 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 162.4, 160.4, 155.0, 138.6, 136.1, 133.4, 129.3, 128.7 (d, J=7.7), 128.1, 127.4, 122.5, 115.3, 115.1, 114.8, 79.8, 79.4, 76.7, 72.8, 66.1, 41.1, 40.0 (br), 32.3, 32.1, 28.6, 22.8, 17.9, −1.4. Mass spec.: 662.02 (MH)+.

reactant | (±)-1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | 1.512 mmol, 780 mg | ClC(C(OC(C)C=1C=C(C=C2C=NN(C12)COCC[Si](C)(C)C)Br)=N)(Cl)Cl | C17H23BrCl3N3O2Si
reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 1.512 mmol, 468 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | cyclohexane | 3 mL | C1CCCCC1 | C6H12
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (±)-tert-Butyl 4-((1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | BrC=1C=C2C=NN(C2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45BrFN3O4Si
